US07645753B2
4-(5-Chloro-benzooxazol-2-ylamino)-piperidine-1-carboxylic acid ethyl ester
A mixture of 5-chloro-benzooxazole-2-thiol (4.00 g, 21.5 mmol, 1.0 equiv; commercially available from Aldrich) and ethyl 4-amino-1-piperidine carboxylate (4.9 g, 28.0 mmol, 1.3 equiv) in anhydrous DMAc (5 mL) was heated to 200° C. under microwave irradiation for 20 min. To the crude reaction mixture was added a conc. solution of sodium chloride (100 mL), the solution extracted with ethyl acetate (3×100 mL) and the combined organic phases dried over MgSO4. Purification of the crude material with column chromatography on silica eluting with hexane/ethyl acetate (2:1→1:1) yielded 2.7 g (39%) of the title compound. 1H NMR (400 MHz, DMSO): δ 1.19 (t, J=7.1 Hz, 3H), 1.39-1.45 (m, 2H), 1.93-1.97 (m, 2H), 2.98 (br s, 2H), 3.77-3.78 (m, 1H), 3.91-3.95 (m, 2H), 4.04 (q, J=7.1 Hz, 2H), 7.00 (dd, J=8.4 Hz, J=2.1 Hz, 1H), 7.29 (d, J=2.1 Hz, 1H), 7.36 (d, J=8.4 Hz, 1H), 8.19 (d, J=7.6 Hz, 1H). 13C NMR (100 MHz, DMSO): δ 14.53, 31.11, 42.07, 49.60, 60.63, 109.45, 115.10, 119.65, 127.78, 144.86, 146.71, 154.56, 162.50. MS (ISP): 324.1 [M+H]+.

reactant | 5-chloro-benzooxazole-2-thiol | ClC=1C=CC2=C(N=C(O2)S)C1 | C7H4ClNOS
reactant | ethyl 4-amino-1-piperidine carboxylate | 28.0 mmol, 4.9 g, 1.3 equiv | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | sodium chloride | 100 mL | [Cl-].[Na+]
solvent | DMAc | 5 mL | CC(=O)N(C)C | C4H9NO
product | 4-(5-Chloro-benzooxazol-2-ylamino)-piperidine-1-carboxylic acid ethyl ester | 2.7 g, 39% | C(C)OC(=O)N1CCC(CC1)NC=1OC2=C(N1)C=C(C=C2)Cl | C15H18ClN3O3
